US04598079
3-(2-thienyl)-4-(3-chlorophenylaminocarbonyl)-piperazin-2-one
5.5 g (0.03 mol) of 3-(2-thienyl)-piperazin-2-one, prepared in accordance with Example 16, are dissolved in 60 ml of methylene chloride, 4.6 g (0.03 mol) of 3-chlorophenyl isocyanate, dissolved in 20 ml of methylene chloride, are added dropwise and the mixture is stirred for a further 5 hours at room temperature. The reaction product which has been precipitated is filtered off with suction, washed with methylene chloride and dried.

reactant | 3-(2-thienyl)-piperazin-2-one | 0.03 mol, 5.5 g | S1C(=CC=C1)C1C(NCCN1)=O | C8H10N2OS
reactant | 3-chlorophenyl isocyanate | 0.03 mol, 4.6 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-thienyl)-4-(3-chlorophenylaminocarbonyl)-piperazin-2-one | S1C(=CC=C1)C1C(NCCN1C(=O)NC1=CC(=CC=C1)Cl)=O | C15H14ClN3O2S
